US08937091B2
Tigloylbenzene 8222
Benzene (1 mL), tigloyl chloride (236 mg), and aluminium chloride (160 mg) were reacted in dichloromethane (1.5 mL) at from 0° C. to room temperature for 4 hours. The resultant was treated in the same manner as described in Example 1 to obtain the title compound (126 mg).

reactant | Benzene | 1 mL | C1=CC=CC=C1 | C6H6
reactant | tigloyl chloride | 236 mg | C(\C(\C)=C\C)(=O)Cl | C5H7ClO
reactant | aluminium chloride | 160 mg | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | dichloromethane | 1.5 mL | ClCCl | CH2Cl2
product | Tigloylbenzene | 126 mg | C(\C(\C)=C\C)(=O)C1=CC=CC=C1 | C11H12O
